US06441012B1
c) Preparation of Di-t-butyl 3-fluoro-5-methoxy-4-nitrophenylmalonate
Di-t-butyl malonate(18 g) was added dropwise to a stirred suspension of sodium hydride[60% dispersion in mineral oil](3.3 g) in N-methyl pyrrolidinone(100 mL) under an atmosphere of argon and the mixture was stirred until effervescence ceased. 3,5 Difluoro-2-nitro-anisole(6.4 g) was added and the mixture was stirred at 80° C. for 2 h. The mixture was cooled to room temperature then partitioned between water and ether and then the ether extract was dried and evaporated to dryness. The residue was subjected to flash chromatography eluting with increasingly polar mixtures of ethyl acetate and hexane to give the product(5.5 g)

reactant | Di-t-butyl malonate | 18 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | sodium hydride | 3.3 g | [H-].[Na+]
reactant | 3,5 Difluoro-2-nitro-anisole | 6.4 g | FC=1C(=C(C=C(C1)F)OC)[N+](=O)[O-] | C7H5F2NO3
solvent | N-methyl pyrrolidinone | 100 mL | CN1CCCC1=O | C5H9NO
product | Di-t-butyl 3-fluoro-5-methoxy-4-nitrophenylmalonate | 5.5 g | FC=1C=C(C=C(C1[N+](=O)[O-])OC)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H24FNO7
